US09326987B2
4-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-indole-6-carbonitrile
4-Bromo-1H-indole-6-carbonitrile (207 mg), PS-BEMP (900 mg) and 4-nitrobenzenesulfonyl chloride (380 mg) were weighed to a round bottom flask, then N,N-Dimethylformamide (4 ml) was added and the reaction was stirred at RT. The reaction was filtered and washed with DMF. The DMF was evaporated and the residue was dissolved in DCM:methanol and passed through a 5 g SAX cartridge (preconditioned with methanol) washing with DCM:methanol. The residue was evaporated to afford the title compound, 360 mg as a pale orange solid.

reactant | 4-Bromo-1H-indole-6-carbonitrile | 207 mg | BrC1=C2C=CNC2=CC(=C1)C#N | C9H5BrN2
reactant | BEMP | 900 mg | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 4-nitrobenzenesulfonyl chloride | 380 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | N,N-Dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-indole-6-carbonitrile | BrC1=C2C=CN(C2=CC(=C1)C#N)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H8BrN3O4S
